* D:\LTSpice_Log_Parser\LTSpice_Example\LTSPICE_Example.asc
R1 OUTPUT INPUT {mc(10k, 10/100)}
R2 0 OUTPUT {mc(10k, 10/100)}
V1 INPUT 0 PULSE(0 5 0 10m 10m 0 20m)
.step PARAM Dummy 0 100 1
.tran 20m
.meas TRAN V_at_6ms FIND V(OUTPUT) AT 6m
.meas TRAN V_at_14ms FIND V(OUTPUT) AT 14m
.backanno
.end
